US08017610B2
(131a) 2-Chloro-5-[(4-methylpiperazin-1-yl)carbonyl]pyrazine
Commercially available 5-hydroxypyrazine-2-carboxylic acid (5.00 g, 39.0 mmol) was dissolved in thionyl chloride (64 mL), and a few drops of N,N-dimethylformamide were added, followed by heating to reflux for 5 hours under nitrogen atmosphere. The solvent was distilled off under reduced pressure, and the resulting residue was diluted with methylene chloride (50 mL). While being cooled in an ice bath, diisopropylethylamine (18.7 mL, 107 mmol) and 1-methylpiperazine (4.37 mL, 39.2 mmol) were added, and stirring was carried out at room temperature for 3 days under nitrogen atmosphere. To the reaction solution, water (100 mL) was added, and extraction was carried out with methylene chloride (100 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: methanol/methylene chloride=3%-5%) to afford the desired compound (5.32 g, yield 62%) as a brown solid.

reactant | 5-hydroxypyrazine-2-carboxylic acid | 39.0 mmol, 5.00 g | OC=1N=CC(=NC1)C(=O)O | C5H4N2O3
reactant | diisopropylethylamine | 107 mmol, 18.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methylpiperazine | 39.2 mmol, 4.37 mL | CN1CCNCC1 | C5H12N2
reactant | water | 100 mL | O | H2O
reactant | thionyl chloride | 64 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 2-Chloro-5-[(4-methylpiperazin-1-yl)carbonyl]pyrazine | 5.32 g, yield 62% | ClC1=NC=C(N=C1)C(=O)N1CCN(CC1)C | C10H13ClN4O
